US07442683B2
1) Phenacyl (±)-3-hydroxyhexadecanoate ((±)-Hhd-OPac) (Pac: phenacyl)
To a suspension of (±)-3-hydroxyhexadecanoic acid (500 mg, 1.84 mmol) in ethyl acetate (3.6 ml) were added phenacyl bromide (421 mg, 2.12 mmol) and triethylamine (294 mg, 2.12 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was washed with water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over magnesium sulfate. Magnesium sulfate was filtered off and the filtrate was concentrated under reduced pressure to obtain 678 mg of the title compound as a pale yellow solid.

reactant | (±)-3-hydroxyhexadecanoic acid | 1.84 mmol, 500 mg | OC(CC(=O)O)CCCCCCCCCCCCC | C16H32O3
reactant | phenacyl bromide | 2.12 mmol, 421 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | triethylamine | 2.12 mmol, 294 mg | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 3.6 ml | C(C)(=O)OCC | C4H8O2
product | Phenacyl (±)-3-hydroxyhexadecanoate | 678 mg | OC(CC(=O)OCC(=O)C1=CC=CC=C1)CCCCCCCCCCCCC | C24H38O4
